US05364866
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (3.0 g, 13.6 mmoles), K2CO3 (2.8 g), 4-(3-bromopropoxy)-3-methoxybenzonitrile (4.0 gm,, 14.8 mmoles) in acetonitrile (70 ml) was heated at reflux for 3 hr. At the end of the reaction, the solvent was removed on a rotary evaporator. The organic material was extracted into dichloromethane (250 ml) and the inorganics were filtered off. The dichloromethane solution was concentrated to a crude oil. The purification was done by flash chromatography over a silica gel column (SiO2, 55 gm; eluted with dichloromethane, 600 ml; 1% methanol in dichloromethane, 600 ml). The material thus obtained was crystallized from a small amount of dichloromethane. Recrystallization from ethanol (25 ml) provided 3.8 m (68%) of 4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxybenzonitrile as white crystals, m.p.=107°-108° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 13.6 mmoles, 3.0 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | K2CO3 | 2.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-(3-bromopropoxy)-3-methoxybenzonitrile | 14.8 mmoles, 4.0 gm | BrCCCOC1=C(C=C(C#N)C=C1)OC | C11H12BrNO2
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 4-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxybenzonitrile | 68% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCOC2=C(C=C(C#N)C=C2)OC)C=C1 | C23H24FN3O3
